US05143935
0.41 g of lithium aluminium hydride were suspended in 10 ml of tetrahydrofuran and while cooling, a solution of 1.9 g of (2S,4S)-4-azido-2-ethoxycarbonyl-N-ethyl pyrrolidine in 4 ml of tetrahydrofuran was dropwise added thereto. After stirring at the same temperature for 1 hour, the temperature of reaction mixture was raised to room temperature and the mixture was stirred for 2 hours. To this, a mixture of 1 ml of 1N-NaOH solution and 9 ml of tetrahydrofuran was added to decompose lithium aluminium hydride and undissolved material was filtered. The filtrate was concentrated under reduced pressure to obtain (2S,4S)-4-amino-N-ethyl2-hydroxymethyl pyrrolidine. Yield 1.05 g.

reactant | lithium aluminium hydride | 0.41 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4S)-4-azido-2-ethoxycarbonyl-N-ethyl pyrrolidine | 1.9 g | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)CC)C(=O)OCC | C9H16N4O2
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | (2S,4S)-4-amino-N-ethyl2-hydroxymethyl pyrrolidine | N[C@H]1C[C@H](N(C1)CC)CO | C7H16N2O
